US05922770
(3R)-3-((2-Naphthyl)methyl)piperazin-2-one.
(2R)-2-(2-naphthyl)methyl-3-oxo-4-phenethylpiperazine-1-carboxylic acid tert-butyl ester (1.2 g; 2.7 mmol) was dissolved in a mixture of TFA (5 ml) and methylene chloride (5 ml) and stirred for 15 min. Methylene chloride (30 ml) and aqueous sodium hydrogencarbonate (saturated) was added to pH 8. The mixture was extracted with methylene chloride (3×10 ml) and the combined aqueous phases were dried (magnesium sulphate) and the solvent was removed in vacuo. Part of the residue (400 mg 1.2 mmol) were added to a mixture of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid (282 mg; 1.2 mmol); HOAt (158 mg; 1.2 mmol), EDAC (245 mg; 1.3 mmol) and DIEA (150 mg; 1.2 mmol) and stirred overnight. Methylene chloride (50 ml) was added and the mixture was washed with aqueous sodium hydrogensulphate (10%; 50 ml); aqueous sodium hydrogencarbonate (saturated; 50 ml) and water (50 ml). The organic phase was dried (magnesium sulphate) and the solvent removed in vacuo. The residue was chromatographed on silica (2×20 cm) and the residue was dissolved in a mixture of TFA (2 ml) and methylene chloride (2 ml) and stirred for 5 min. Methylene chloride and an aqueous solution of sodium hydrogenarbonate (sat.) was added to pH 8. The mixture was extracted with methylene chloride (2×10 ml). The organic phase was dried (magnesium sulphate) and the solvent was removed in vacuo to afford 310 mg of the title compound.

reactant | (2R)-2-(2-naphthyl)methyl-3-oxo-4-phenethylpiperazine-1-carboxylic acid tert-butyl ester | 2.7 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1[C@@H](C(N(CC1)CCC1=CC=CC=C1)=O)CC1=CC2=CC=CC=C2C=C1 | C28H32N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid | 1.2 mmol, 282 mg | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)O)(C)C | C12H21NO4
reactant | HOAt | 1.2 mmol, 158 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDAC | 1.3 mmol, 245 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 1.2 mmol, 150 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-((2-Naphthyl)methyl)piperazin-2-one | 310 mg | C1=C(C=CC2=CC=CC=C12)C[C@@H]1C(NCCN1)=O | C15H16N2O
